US08563575B2
To a mixture of 3-[4-(2,3-dihydro-1H-imidazo[1,2-a]benzimidazol-1-yl)phenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (57 mg) and methyl iodide (0.012 mL) in DMF (2.0 mL) was added sodium hydride (62 mg) (60% in mineral oil) at 0° C. The mixture was stirred at 0° C. for 1 h, and then added H2O. The precipitate was collected and washed with MeOH to give 3-[4-(2,3-dihydro-1H-imidazo[1,2-a]benzimidazol-1-yl)phenyl]-1-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (43 mg) as white powder.

reactant | 3-[4-(2,3-dihydro-1H-imidazo[1,2-a]benzimidazol-1-yl)phenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 57 mg | N1(CCN2C1=NC1=C2C=CC=C1)C1=CC=C(C=C1)N1C(NC=2C1=NC=CC2)=O | C21H16N6O
reactant | methyl iodide | 0.012 mL | CI | CH3I
reactant | sodium hydride | 62 mg | [H-].[Na+]
reactant | H2O | O | H2O
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 3-[4-(2,3-dihydro-1H-imidazo[1,2-a]benzimidazol-1-yl)phenyl]-1-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 43 mg | N1(CCN2C1=NC1=C2C=CC=C1)C1=CC=C(C=C1)N1C(N(C=2C1=NC=CC2)C)=O | C22H18N6O
